US04664693
A mixture of 3-hydroxy-5-(benzo[b]furan-2-yl)-2-butyryl cyclohex-2-en-1-one (1.0 g), ethoxyamine hydrochloride (0.36 g), sodium acetate (0.3 g) and ethanol (100 ml) were stirred at room temperature for 12 hr. The mixture was poured into a very dilute aqueous hydrochloric acid solution which was then extracted with ether. Evaporation of the dried (MgSO4) organic fraction and purification of the residue by column chromatography over silica with dichloromethane elution gave 2-[1-(ethoxyimino)butyl]-3-hydroxy-5-(benzo[b]furan-2-yl)cyclohex-2-en-1-one as a yellow solid, mp 70° C.

reactant | 3-hydroxy-5-(benzo[b]furan-2-yl)-2-butyryl cyclohex-2-en-1-one | 1.0 g | OC1=C(C(CC(C1)C1=CC2=C(O1)C=CC=C2)=O)C(CCC)=O | C18H18O4
reactant | ethoxyamine hydrochloride | 0.36 g | Cl.C(C)ON
reactant | sodium acetate | 0.3 g | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-[1-(ethoxyimino)butyl]-3-hydroxy-5-(benzo[b]furan-2-yl)cyclohex-2-en-1-one | C(C)ON=C(CCC)C=1C(CC(CC1O)C1=CC2=C(O1)C=CC=C2)=O | C20H23NO4
